US09024031B1
4. Preparation of 3-(3-chloro-1H-pyrazol-1-yl)pyridine (5b)
3-Chloro-1-(pyridin-3-yl)-1H-pyrazole-5-carboxylic acid hydrochloride (1.00 g, 3.65 mmol) was stirred in N,N′-dimethylformamide (10 mL). Copper (II) oxide (0.0580 mg, 0.730 mmol) was added and the reaction was heated at 120° C. for 16 hours, at which point the reaction was ˜20% complete. Additional copper (II) oxide (0.112 g, 1.46 mmol) was added and the reaction was stirred for 5 hours. The mixture was diluted with ammonium hydroxide and water and extracted with ethyl acetate. The organic layer was washed with lithium chloride (15%) and concentrated to provide an orange solid. The residue was purified by flash column chromatography using ethyl acetate as eluent and the pure fractions were concentrated to afford the desired product as a white solid (0.481 g, 69.7%): mp: 66-68° C.; 1H NMR (400 MHz, CDCl3) δ 8.93 (d, J=27 Hz, 1H), 8.57 (dd, J=4.8, 1.4 Hz, 1H), 8.02 (ddd, J=8.3, 2.7, 1.5 Hz, 1H), 7.91 (d, J=2.6 Hz, 1H), 7.47-7.34 (m, 1H), 6.45 (d, J=2.6 Hz, 1H); 13C NMR (101 MHz, CDCl3) δ 148.01, 142.72, 140.12, 135.99, 128.64, 126.41, 124.01, 108.0.

reactant | 3-Chloro-1-(pyridin-3-yl)-1H-pyrazole-5-carboxylic acid hydrochloride | 3.65 mmol, 1.00 g | Cl.ClC1=NN(C(=C1)C(=O)O)C=1C=NC=CC1
solvent | N,N′-dimethylformamide | 10 mL | CN(C)C=O | C3H7NO
solvent | ammonium hydroxide | [OH-].[NH4+]
solvent | water | O | H2O
catalyst | Copper (II) oxide | 0.730 mmol, 0.0580 mg | [Cu]=O
catalyst | copper (II) oxide | 1.46 mmol, 0.112 g | [Cu]=O
product | 3-(3-chloro-1H-pyrazol-1-yl)pyridine | 0.481 g, 69.7% | ClC1=NN(C=C1)C=1C=NC=CC1 | C8H6ClN3
